US05703240
1-(4-Benzyloxy-phenyl)-5-trifluoromethyl-1H-tetrazole
(4-Benzyloxy-phenyl)-(1-chloro-2,2,2-trifluoro-ethylidene)-amine (66 mmol) was added to a stirred flask of glacial acetic acid (250 ml) at 70° under nitrogen. After 4 min sodium azide (210 ml) was added and heating was continued for 3 h. After cooling the mixture was filtered, the filtrate poured into water (750 ml) then extracted with dichloromethane (500 ml×3). The combined organic extracts were dried (Na2 SO4) and evaporated in vacuo. Purification by FCC using hexane-ethyl acetate (19:1) gave the title compound as a white solid (14.5 g). T.l.c. (Cyclohexane/ethyl acetate (19:1) Rf 0.22

reactant | (4-Benzyloxy-phenyl)-(1-chloro-2,2,2-trifluoro-ethylidene)-amine | 66 mmol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N=C(C(F)(F)F)Cl | C15H11ClF3NO
reactant | sodium azide | 210 ml | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 1-(4-Benzyloxy-phenyl)-5-trifluoromethyl-1H-tetrazole | 14.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1N=NN=C1C(F)(F)F | C15H11F3N4O
